US09169254B2
2-Chloro-1-methyl-pyridinium iodide (18 mg, 0.070 mmol) and triethylamine (0.28 mL, 1.98 mmol) were added to a solution of 2-cyclohexyl-8-(2-oxo-2-o-tolyl-ethanesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (20 mg, 0.046 mmol) in methylene chloride (1.0 mL), and the mixture was stirred at room temperature for 19 hours. 2-Chloro-1-methylpyridinium iodide (18 mg, 0.070 mmol) and triethylamine (0.28 mL, 1.98 mmol) were further added, and the mixture was stirred at room temperature for five hours. A 1 M aqueous sodium hydroxide solution was added to the reaction mixture, and the mixture was stirred at room temperature for 20 minutes. The aqueous layer was extracted with methylene chloride, and the organic layer was washed with a 1 M aqueous sodium hydroxide solution, water and saturated brine and dried over sodium sulfate. The organic layer was concentrated, and the residue was then silica gel column chromatography to give 2-cyclohexyl-8-(2-o-tolyl-ethynesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one (15 mg, 79%) as a white solid.

reactant | 2-Chloro-1-methyl-pyridinium iodide | 0.070 mmol, 18 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 1.98 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | 2-cyclohexyl-8-(2-oxo-2-o-tolyl-ethanesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 0.046 mmol, 20 mg | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CC(C2=C(C=CC=C2)C)=O | C22H29N3O4S
reactant | 2-Chloro-1-methylpyridinium iodide | 0.070 mmol, 18 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | triethylamine | 1.98 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | methylene chloride | 1.0 mL | C(Cl)Cl | CH2Cl2
product | 2-cyclohexyl-8-(2-o-tolyl-ethynesulfonyl)-1,3,8-triaza-spiro[4.5]dec-1-en-4-one | 15 mg, 79% | C1(CCCCC1)C1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)C#CC2=C(C=CC=C2)C | C22H27N3O3S
